US09371295B2
Step 6: (S)-2-(5-methoxy-2-methyl-1H-indol-3-yl)-N-(1-(5-(2-methoxyquinolin-3-yl)oxazol-2-yl)-7-oxononyl)acetamide
A solution of 5-methoxy-2-methyl-1H-indol-3-yl)acetic acid (1.3 eq), HOBT (1.3 eq), EDC.HCl (1.3 eq) in DMF (premixed for 3 min) was added to (S)-9-amino-9-(5-(2-methoxyquinolin-3-yl)oxazol-2-yl)nonan-3-one from the previous step (1 eq), followed by DIPEA (1.3 eq). The mixture was stirred at room temperature over night. The product was purified by preparative RP-HPLC, using water (+0.1% TFA) and MeCN (+0.1% TFA) as eluents (C18 column). MS (ES) C34H38N4O5 requires: 582.69, found: 583.

reactant | acetic acid | 1.3 eq | C(C)(=O)O | C2H4O2
reactant | HOBT | 1.3 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 1.3 eq | CCN=C=NCCCN(C)C.Cl
reactant | (S)-9-amino-9-(5-(2-methoxyquinolin-3-yl)oxazol-2-yl)nonan-3-one | N[C@@H](CCCCCC(CC)=O)C=1OC(=CN1)C=1C(=NC2=CC=CC=C2C1)OC | C22H27N3O3
reactant | DIPEA | 1.3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | CN(C)C=O | C3H7NO
product | (S)-2-(5-methoxy-2-methyl-1H-indol-3-yl)-N-(1-(5-(2-methoxyquinolin-3-yl)oxazol-2-yl)-7-oxononyl)acetamide | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)N[C@@H](CCCCCC(CC)=O)C=1OC(=CN1)C=1C(=NC2=CC=CC=C2C1)OC | C34H38N4O5
